US08404856B2
Step 2: 3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one 18-2
2-chloro-3-(3,5-dibromophenoxy)-4-(trifluoromethyl)-1,2-dihydropyridine (1.64 g, 3.80 mmol) and potassium hydroxide (0.640 g, 11.4 mmol) were dissolved in tert-butanol in a round bottom flask and placed in an oil bath at 75° C. under N2. After 16 hours, the reaction mixture was allowed to cool to room temperature and quenched with saturated aqueous ammonium chloride (25 mL). This mixture was diluted with water (25 mL) and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (2×50 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to give the title compound as a white solid. 1H NMR (DMSO-d6) δ 12.68 (s, 1H), 7.58 (d, J=6.8 Hz, 1H), 7.54-7.52 (m, 1H), 7.24-7.22 (m, 2H), 6.47 (d, J=Hz, 1H). LRMS (M+1)=413.5.

reactant | 2-chloro-3-(3,5-dibromophenoxy)-4-(trifluoromethyl)-1,2-dihydropyridine | 3.80 mmol, 1.64 g | ClC1NC=CC(=C1OC1=CC(=CC(=C1)Br)Br)C(F)(F)F | C12H7Br2ClF3NO
reactant | potassium hydroxide | 11.4 mmol, 0.640 g | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one | BrC=1C=C(OC=2C(NC=CC2C(F)(F)F)=O)C=C(C1)Br | C12H6Br2F3NO2
